US03952001
To a solution of 15.7 g. 3-butylthio-1,2,4-triazole in 60 ml. glacial acetic acid was added 100 vol. hydrogen peroxide solution (11.4 ml., 1 molecular proportion). The reaction mixture was cooled occasionally during 1 hour to maintain the reaction temperature at 25° - 30°C., and then kept at room temperature for 24 hours. The resulting solution was distilled under reduced pressure to produce a solid residue which was recrystallized from ethyl acetate to give 3-n-butylsulphinyl-1,2,4-triazole, m.p. 82° - 83°C.

reactant | 3-butylthio-1,2,4-triazole | C(CCC)SC1=NNC=N1 | C6H11N3S
reactant | hydrogen peroxide | 11.4 ml | OO | H2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-n-butylsulphinyl-1,2,4-triazole | C(CCC)S(=O)C1=NNC=N1 | C6H11N3OS
